US07192978B2
(2R)-2-Cyclopentyl-2-hydroxy-2-phenylacetic acid (3R)-1-methylpyrrolidin-3-yl ester
0.545 g (0.0025 mol) of (2R)-2-cyclopentyl-2-hydroxy-2-phenylacetic acid were dissolved in 8 ml of dry DMF. To this solution 0.481 g (0.003 mol) of 1,1′-carbonildiimidazol were added and the mixture was stirred at room temperature for 1 h. After this time, the mixture obtained was added to a suspension of (3R)-1-methylpyrrolidin-3-ol (Intermediate I-19, 0.531 g, 0.0046 mol) and HNa (0.065 g, 0.0027 mol) in 3 ml of dry DMF. After stirring 26 h at room temperature the reaction mixture was treated with water and extracted two times with Et2O. The organic layers were combined, washed with water and dried. The residue was purified by silica gel column chromatography (eluent: CHCl3 plus isopropanol 0%→10%) to obtain 450 mg (60%) of the title product as an oil.

reactant | (2R)-2-cyclopentyl-2-hydroxy-2-phenylacetic acid | 0.0025 mol, 0.545 g | C1(CCCC1)[C@](C(=O)O)(C1=CC=CC=C1)O | C13H16O3
reactant | (3R)-1-methylpyrrolidin-3-ol | 0.0046 mol, 0.531 g | CN1C[C@@H](CC1)O | C5H11NO
reactant | water | O | H2O
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (2R)-2-Cyclopentyl-2-hydroxy-2-phenylacetic acid (3R)-1-methylpyrrolidin-3-yl ester | 450 mg, 60% | CN1C[C@@H](CC1)OC([C@@](C1=CC=CC=C1)(O)C1CCCC1)=O | C18H25NO3
